US06784167B2
To a solution of (5-bromo(2-thienyl))chlorosulfone (1.09 g, 4.16 mmol) in CH2Cl2 (30 mL) was added triethylamine (0.4 mL, 3.052 mmol), followed by (4-fluorophenyl)piperazine (500 mg, 2.77 mmol). The resulting mixture was stirred at room temperature overnight. The reaction was treated with a saturated NaHCO3 solution (1 mL) and extracted with EtOAc (3×10 mL). The combined organic layers were washed with a saturated NaCl solution (10 mL), dried (MgSO4) and concentrated under reduced pressure to give a brown solid. The crude product was purified flash chromatography (10% EtOAc/hex) to give 5-bromo-2-{[4-(4-fluorophenyl)piperazinyl]sulfonyl}thiophene (1.12 g, 100%) as a white solid: mp 123-124° C.; TLC (EtOAc) Rf 0.44; HPLC ES-MS m/z 406 (MH+).

reactant | (5-bromo(2-thienyl))chlorosulfone | 4.16 mmol, 1.09 g | BrC1=CC=C(S1)S(=O)(=O)Cl | C4H2BrClO2S2
reactant | triethylamine | 3.052 mmol, 0.4 mL | C(C)N(CC)CC | C6H15N
reactant | (4-fluorophenyl)piperazine | 2.77 mmol, 500 mg | FC1=CC=C(C=C1)N1CCNCC1 | C10H13FN2
reactant | NaHCO3 | 1 mL | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | 5-bromo-2-{[4-(4-fluorophenyl)piperazinyl]sulfonyl}thiophene | 1.12 g, 100% | BrC1=CC=C(S1)S(=O)(=O)N1CCN(CC1)C1=CC=C(C=C1)F | C14H14BrFN2O2S2
